US05908945
1α-Ethylandrost-4-ene-3,17-dione
2.84 g (10 mmol) of androsta-1,4-diene-3,17-dione is dissolved under nitrogen atmosphere in 20 ml of anhydrous dioxane. 143 mg (1 mmol) of copper(I) bromide is added, and the solution is heated to 25° C. Then, 10 ml (10 mmol) of a 1 molar solution of triethylaluminum in hexane is added to the reaction, so that the temperature does not rise above 30° C. Then, it is stirred for 1.5 more hours at 30° C. For hydrolysis, 1 ml of water mixed with 5 ml of dioxane is added to the reaction, and the solution is stirred for 15 more minutes. The inorganic solid is suctioned off and rewashed with 30 ml of dioxane. After concentration by evaporation of the dioxane solution, 3 g of crude product is obtained, which is chromatographed on silica gel with a hexane/ethyl acetate mixture with an increasing portion of ethyl acetate as eluent. After concentration by evaporation of the fractions, 2.67 g of 1α-ethylandrost-4-ene-3,17-dione (85% of theory) of melting point 168° C. is obtained.

reactant | androsta-1,4-diene-3,17-dione | 10 mmol, 2.84 g | C[C@@]12C(CC[C@H]1[C@@H]1CCC3=CC(C=C[C@]3(C)[C@H]1CC2)=O)=O | C19H24O2
reactant | triethylaluminum | C(C)[Al](CC)CC
reactant | water | 1 ml | O | H2O
solvent | dioxane | 20 ml | O1CCOCC1 | C4H8O2
solvent | hexane | CCCCCC | C6H14
catalyst | copper(I) bromide | 1 mmol, 143 mg | [Cu]Br
solvent | dioxane | 30 ml | O1CCOCC1 | C4H8O2
solvent | dioxane | 5 ml | O1CCOCC1 | C4H8O2
product | 1α-Ethylandrost-4-ene-3,17-dione | 3 g | C(C)[C@H]1CC(C=C2CC[C@H]3[C@@H]4CCC([C@@]4(C)CC[C@@H]3[C@@]12C)=O)=O | C21H30O2
